US05726172
The 2,4-dimethyl-3-carboethoxypyridine (11.3 g, 63.1 mmol) in distilled THF (375 mL) under nitrogen was cooled to 0° C. and lithium aluminum hydride (1M in THF, 63.1 mL) was added dropwise. The reaction was stirred for 18 hours at room temperature then cooled to 0° C. and quenched with EtOAc (2.5 mL), then H2O (2.5 mL), then 15% NaOH (2.5 mL), followed by H2O (7.5 mL). The solution was filtered and the solvent removed under reduced pressure to give the desired 2,4-dimethyl-3-hydroxymethylpyridine.

reactant | 2,4-dimethyl-3-carboethoxypyridine | 63.1 mmol, 11.3 g | CC1=NC=CC(=C1C(=O)OCC)C | C10H13NO2
reactant | lithium aluminum hydride | 1M, 63.1 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 375 mL | C1CCOC1 | C4H8O
product | 2,4-dimethyl-3-hydroxymethylpyridine | CC1=NC=CC(=C1CO)C | C8H11NO
